US07897595B2
A mixture of 3-iodo-1,5-dimethyl-7-(trifluoroacetyl)-1,5,6,7,8,9-hexahydro-2H-pyrido[2,3-d]azepin-2-one (41.9 mg, 101 μmol), K2CO3 (28.0 mg, 202 μmol) and MeOH (8 ml) was heated for 5 h at 60° C. The reaction mixture was concentrated in vacuo and purified by column chromatography to furnish 17.8 mg (55%) of 3-iodo-1,5-dimethyl-1,5,6,7,8,9-hexahydro-2H-pyrido[2,3-d]azepin-2-one. 1H-NMR (DMSO-d6) δ 7.83 (s, 1H), 3.57 (s, 3H), 2.99 (m, 2H), 2.87 (ddd, 1H), 2.78 (m, 3H), 2.47 (dd, 1H), 1.15 (d, 3H) ppm.

reactant | 3-iodo-1,5-dimethyl-7-(trifluoroacetyl)-1,5,6,7,8,9-hexahydro-2H-pyrido[2,3-d]azepin-2-one | 101 μmol, 41.9 mg | IC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N(C1=O)C | C13H14F3IN2O2
reactant | K2CO3 | 202 μmol, 28.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 8 ml | CO | CH4O
product | 3-iodo-1,5-dimethyl-1,5,6,7,8,9-hexahydro-2H-pyrido[2,3-d]azepin-2-one | 17.8 mg, 55% | IC1=CC2=C(CCNCC2C)N(C1=O)C | C11H15IN2O
